US07498440B2
Preparation of 4-[hydroxy(di-3-thienyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(di-3-thienyl)methanol (0.0808 g, 0.264 mmol) and 3-bromopropyl phenyl ether (0.070 mL, 0.444 mmol) in 2 MeOH/3 CHCl3/2 CH3CN (5.0 mL) were reacted to give the desired product (0.0613 g, 44.7%). EI-MS m/z 440(M+) Rt (2.05 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(di-3-thienyl)methanol | 0.264 mmol, 0.0808 g | N12CCC(CC1)(CC2)C(O)(C2=CSC=C2)C2=CSC=C2 | C16H19NOS2
reactant | 3-bromopropyl phenyl ether | 0.444 mmol, 0.070 mL | C1(=CC=CC=C1)OCCCBr | C9H11BrO
solvent | MeOH | 5.0 mL | CO | CH4O
product | 4-[hydroxy(di-3-thienyl)methyl]-1-[3-(phenyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0613 g, 44.7% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC2=CC=CC=C2)(C2=CSC=C2)C2=CSC=C2 | InChI=1S/C25H30NO2S2.BrH/c27-25(21-7-17-29-19-21,22-8-18-30-20-22)24-9-13-26(14-10-24,15-11-24)12-4-16-28-23-5-2-1-3-6-23;/h1-3,5-8,17-20,27H,4,9-16H2;1H/q+1;/p-1
